*$ 
* LMC6001B
*****************************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: LMC6001B
* Parts is a MicroSim product.
*
* Model Version: Final 1.0
*
*****************************************************************************
*
* Final 1.0
* Release to Web.
* 
* Model Usage Notes:
* 1. Model file is updated with latest header.
* 2. This CMOS electrometer simulates guaranteed (100% tested) input offset 
*    voltage (VOS) & input bias current (IB)
* 3. Noise is not modeled.
* 4. Asymmetrical gain is not modeled.
* 5. Features:
*    Operates from single supply
*    Rail-to-rail output swing
*    Low offset voltage (max) =           800uV
*    Ultra low input current (max) =      100fA
*    Slew rate =                        1.5V/uS
*    Gain-bandwidth product =            1.3MHz 
*    Supply current =                     450uA
***************************************************************************** 
* Connections:      Non-inverting input
*                   |   Inverting input
*                   |   |   Positive power supply
*                   |   |   |   Negative power supply
*                   |   |   |   |   Output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LMC6001B    1   2  99  50  28
* CAUTION:  SET .OPTIONS GMIN=1E-16 TO CORRECTLY MODEL INPUT BIAS CURRENT.
CI1 1  50 2P
CI2 2  50 2P
* 1.634 Hz pole capacitor
C3  98 9  9.715N
* 1.1 MHz pole capacitor
C4  6  5  13.95P
* 4.98 MHz pole capacitor
C5  98 15 31.9F
* Drain-substrate capacitor
C6  50 4  3P
* 28.6 MHz pole capacitor
C7  98 11 5.62F
DP1 1  99 DA
DP2 50 1  DD
DP3 2  99 DB
DP4 50 2  DC
D1  9  8  DX
D2  10 9  DX
D3  18 20 DX
D4  21 18 DX
D5  26 24 DX
D6  25 27 DX
D7  22 99 DX
D8  50 22 DX
D9  0  14 DX
D10 12 0  DX
EH  97 98 99    49 1.0
EN  0  96 0     50 1.0
* Input offset voltage -|
EOS 7  1  POLY(1) 16 49 800U 1
EP  97 0  99    0  1.0
E1  97 19 99    18 1.0
* Sourcing load +Vs current
F1  99 0  VA2   1
* Sinking load -Vs current
F2  0  50 VA3   1
F3  13 0  VA1   1
G1  98 9  5     6  0.1
G2  98 11 9     49 1U
G3  98 15 11    49 1U
* DC CMRR
G4  98 16 POLY(2) 1 49 2 49 0 1.26E-8 1.26E-8
G5  98 18 15    49 1U
I1  99 4  33.46U
I2  99 50 366.5U
* Load dependent pole 
L1  22 28 80.4U
* CMR lead inductor
L2  16 17 73.1M
* 3.30 MHz lead inductor
L3  98 3  48.2M
M1  5  2  4     99 MX
M2  6  7  4     99 MX
R3  5  50 5.18K
R4  6  50 5.18K
R5  98 9  1E7
R8  99 49 50K
R9  49 50 50K
R10 18 3  1E6
R12 98 11 1E6
R13 98 17 1K
* -Rout
R16 23 24 70.7
* +Rout
R17 23 25 80.3
* +Isc slope control
R18 20 29 64K
* -Isc slope control
R19 21 30 130K
R21 98 15 1E6
R22 22 28 636
VA1 19 23 0V
VA2 14 13 0V
VA3 13 12 0V
V2  97 8  0.713V
V3  10 96 0.710V
V4  29 22 1.170V
V5  22 30 0.63V
V6  26 22 0.63V
V7  22 27 0.63V
* Input bias and offset current differences
.MODEL  DA D    (IS=500FA)
.MODEL  DB D    (IS=500FA)
.MODEL  DC D    (IS=405FA)
.MODEL  DD D    (IS=400FA)
.MODEL  DX D    (IS=1.0E-14)
.MODEL  MX PMOS (VTO=-2.456 KP=7.0547E-4)
.ENDS
*$
